US07160888B2
Synthesis of 6-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-4H-pyrido[3,2-b][1,4]oxazin-3-one
To a solution of 4-(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yloxy)-butyraldehyde (0.325 g, 1.37 mmol) in dichloroethane (6 mL) was added a solution of 1-(2,3-dichloro-phenyl)-piperazine (0.318 g, 1.37 mmol) in dichloroethane (3 mL) via cannula. The mixture was stirred for 20 minutes at room temperature and NaBH(OAc)3 (0.377 g, 1.78 mmol) was added. The reaction was stirred for 2.5 h and quenched with saturated NaHCO3 and water. The mixture was extracted with EtOAc and the organic layer was washed with saturated NaHCO3, water and brine, dried over Na2SO4 and concentrated. Purification by chromatography on silica gel (0–5% MeOH/CH2Cl2) gave a foam. Et2O was added and product crashed out. The precipitate was filtered and dried to give the title compound as a white solid (0.386 g, 0.854 mmol, 63%). MS: APCI: M+1: 451.1 (Exact Mass: 450.12).

reactant | 4-(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yloxy)-butyraldehyde | 1.37 mmol, 0.325 g | O=C1NC2=C(OC1)C=CC(=N2)OCCCC=O | C11H12N2O4
reactant | 1-(2,3-dichloro-phenyl)-piperazine | 1.37 mmol, 0.318 g | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | NaBH(OAc)3 | 1.78 mmol, 0.377 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | Et2O | CCOCC | C4H10O
solvent | dichloroethane | 6 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | 6-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-4H-pyrido[3,2-b][1,4]oxazin-3-one | 0.854 mmol, 0.386 g, 63% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC=1C=CC=2OCC(NC2N1)=O | C21H24Cl2N4O3
